US09371325B2
N,N-dibenzyl-6-chloro-5-nitropyrimidine-4-amine
A solution of dibenzylamine (10.2 g) in dichloromethane (30 mL) was dripped into a solution of 4,6-dichloro-5-nitropyrimidine (10 g) in dichloromethane (70 mL) on an ice bath. Then triethylamine (14.4 mL) was added, and the mixture was stirred for 1 hour. Water was added to the reaction mixture, the organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate, and the solvent was concentrated under reduced pressure to obtain the title compound (19.2 g) with the physical property value shown below.

reactant | dibenzylamine | 10.2 g | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | 4,6-dichloro-5-nitropyrimidine | 10 g | ClC1=NC=NC(=C1[N+](=O)[O-])Cl | C4HCl2N3O2
reactant | triethylamine | 14.4 mL | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
product | N,N-dibenzyl-6-chloro-5-nitropyrimidine-4-amine | 19.2 g | C(C1=CC=CC=C1)N(C1=NC=NC(=C1[N+](=O)[O-])Cl)CC1=CC=CC=C1 | C18H15ClN4O2
